US08357711B2
4-Amino-N-{[1-(4-chlorophenyl)cyclopropyl]methyl}-3-fluorobenzamide
To a mixture of 4-amino-3-fluorobenzoic acid (180.0 mg, 1.160 mmol) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (HATU, 0.44 g, 1.2 mmol) in N,N-dimethylformamide (2 mL, 20 mmol) at 0° C. were added N,N-diisopropylethylamine (0.61 mL, 3.5 mmol) and C-[1-(4-chloro-phenyl)-cyclopropyl]-methylamine; hydrochloride (303.7 mg, 1.392 mmol). The reaction mixture was slowly warmed to rt. The reaction mixture was quenched with an equal volume of saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×). The combined organic layers were washed successively with water, aqueous lithium chloride, and brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on the Isco (120 g cartridge, chloroform to 12% methanol in chloroform).

reactant | 4-amino-3-fluorobenzoic acid | 1.160 mmol, 180.0 mg | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 1.2 mmol, 0.44 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-dimethylformamide | 20 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 3.5 mmol, 0.61 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | C-[1-(4-chloro-phenyl)-cyclopropyl]-methylamine | ClC1=CC=C(C=C1)C1(CC1)CN | C10H12ClN
reactant | hydrochloride | 1.392 mmol, 303.7 mg | Cl | ClH
product | 4-Amino-N-{[1-(4-chlorophenyl)cyclopropyl]methyl}-3-fluorobenzamide | NC1=C(C=C(C(=O)NCC2(CC2)C2=CC=C(C=C2)Cl)C=C1)F | C17H16ClFN2O
